US09255110B2
A mixture of 2-chloro-7-methoxy-6-nitro-quinoline (0.1 g, 0.42 mmol) and 2-aminoethanol (38 μL, 0.63 mmol) in anhydrous 1,4-dioxane (5 mL) was heated at 90° C. overnight. A second aliquot of 2-aminoethanol (38 μL, 0.63 mmol) was added and the resulting mixture was heated at 90° C. overnight. The reaction mixture was then concentrated under reduced pressure, the residue was washed with water, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure to give 70 mg of 2-(7-methoxy-6-nitro-quinolin-2-ylamino)-ethanol as a solid without further purifications. MS=264 [M+H]+.

reactant | 2-chloro-7-methoxy-6-nitro-quinoline | 0.42 mmol, 0.1 g | ClC1=NC2=CC(=C(C=C2C=C1)[N+](=O)[O-])OC | C10H7ClN2O3
reactant | 2-aminoethanol | 0.63 mmol, 38 μL | NCCO | C2H7NO
reactant | 2-aminoethanol | 0.63 mmol, 38 μL | NCCO | C2H7NO
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-(7-methoxy-6-nitro-quinolin-2-ylamino)-ethanol | 70 mg | COC1=C(C=C2C=CC(=NC2=C1)NCCO)[N+](=O)[O-] | C12H13N3O4
